US07495110B2
2-{[2-hydroxy-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxamide
Sodium borohydride (8 mg, 2 eq) is added at 0° C. to a solution of N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-{[2-oxo-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-1H-benzimidazole-5-carboxamide (69 mg, 1 eq) in methanol (2 ml). After stirring for 10 minutes at 0° C., the mixture is taken to a temperature of approximately 20° C. and stirred at this temperature for 30 minutes. The mixture is then concentrated under reduced pressure at 40° C. then water saturated with ammonium chloride and dichloromethane is added. After decanting and extracting, the organic phases are combined and washed with salt water, dried over sodium sulphate and evaporated under reduced pressure at 40° C. Purification of the oil obtained by flash chromatography on silica gel (100% dichloromethane to dichloromethane/methanol 80:20) produces the expected compound in the form of an oil (61 mg, 88% yield).

reactant | Sodium borohydride | 8 mg, 2 eq | [BH4-].[Na+]
reactant | N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-{[2-oxo-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-1H-benzimidazole-5-carboxamide | 69 mg, 1 eq | C(C(C)C)N(C(=O)C1=CC2=C(N(C(=N2)SCC(C2=CC(=C(C(=C2)OC)OC)OC)=O)CCCN(CCC2=NC=CC=C2)C)C=C1)CC(C)C | C38H51N5O5S
solvent | methanol | 2 ml | CO | CH4O
product | 2-{[2-hydroxy-2-(3,4,5-trimethoxyphenyl)ethyl]thio}-N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-1H-benzimidazole-5-carboxamide | OC(CSC1=NC2=C(N1CCCN(CCC1=NC=CC=C1)C)C=CC(=C2)C(=O)N(CC(C)C)CC(C)C)C2=CC(=C(C(=C2)OC)OC)OC | C38H53N5O5S
